US09023849B2
2-[1-(2-Fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one
45 mg (0.08 mmol) of 2-[1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one were dissolved in 5 ml of absolute DMF, 18 mg (0.02 mmol) of 10% palladium on charcoal were added and hydrogenation was effected under standard hydrogen pressure overnight. The reaction mixture was filtered through Celite and concentrated, and the residue was purified by means of preparative HPLC (eluent: acetonitrile/water, gradient 20:80→100:0). 25 mg of the target compound were obtained (80% of theory).

reactant | 2-[1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 0.08 mmol, 45 mg | FC1=C(CN2N=C(C3=C2CCC3)C=3N=C(C2=C(N3)NC(C2(C)C)=O)I)C=CC=C1 | C21H19FIN5O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | palladium on charcoal | 0.02 mmol, 18 mg | [Pd] | Pd
product | 2-[1-(2-Fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 25 mg | FC1=C(CN2N=C(C3=C2CCC3)C=3N=CC2=C(N3)NC(C2(C)C)=O)C=CC=C1 | C21H20FN5O
